US04302460
A mixture of 3-methylsulphinyl-4-quinolone (1.035 g.), anhydrous potassium carbonate (1.38 g.), n-butyl bromide (0.685 g.) and dry acetone (50 ml.) was refluxed for 24 hours. The mixture was filtered and the filtrate evaporated to dryness. The resulting oil was dissolved in chloroform (50 ml.). The solution was washed with water, dried and evaporated. The residue oil was triturated with light petroleum to give the solid product 1-n-butyl-3-methylsulphinyl-4-quinolone, m.p. 103°-105°.

reactant | 3-methylsulphinyl-4-quinolone | 1.035 g | CS(=O)C1C=NC2=CC=CC=C2C1=O | C10H9NO2S
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-butyl bromide | 0.685 g | C(CCC)Br | C4H9Br
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-n-butyl-3-methylsulphinyl-4-quinolone | C(CCC)N1C=C(C(C2=CC=CC=C12)=O)S(=O)C | C14H17NO2S
